US04341775
2-(2-Formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer, 16.5 g.), N,N-dimethylformamide (4.4 g.), phosphoryl chloride (9.2 g.), 7-amino-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (23.6 g.), sodium carbonate (5.3 g.), tetrahydrofuran (100 ml.), acetone (150 ml.) and water (150 ml.) were treated in a similar manner to that of Example 11-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 39.1 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 16.5 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
reactant | phosphoryl chloride | 9.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 23.6 g | NC1[C@@H]2N(C(=C(CS2)C(CCCNC(=O)OC(C)(C)C)SC2=NN=NN2)C(=O)O)C1=O | C17H25N7O5S2
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 150 ml | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 4.4 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 39.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCCNC(=O)OC(C)(C)C)SC2=NN=NN2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C29H38N10O10S3
